US04273779
To the solution of 1.38 g of 5-(m-chlorobenzylamino)-pyridine-2-carboxylic acid methyl ester in 15 ml of dimethylformamide, 0.12 g of sodium hydride in 2 ml of dimethylformamide are added and the mixture is stirred several minutes. Then 0.97 g of m-chlorobenzyl chloride are added and the mixture is stirred at room temperature for 18 hours. It is made acidic with diluted hydrochloric acid and extracted with diethyl ether. The extract is washed with 10% aqueous potassium bicarbonate and water, dried and evaporated, to yield the 5-[di-(m-chlorobenzyl)-amino]-pyridine-2-carboxylic acid methyl ester.

reactant | 5-(m-chlorobenzylamino)-pyridine-2-carboxylic acid methyl ester | 1.38 g | COC(=O)C1=NC=C(C=C1)NCC1=CC(=CC=C1)Cl | C14H13ClN2O2
reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | m-chlorobenzyl chloride | 0.97 g | ClC=1C=C(CCl)C=CC1 | C7H6Cl2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 5-[di-(m-chlorobenzyl)-amino]-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(C=C1)N(CC1=CC(=CC=C1)Cl)CC1=CC(=CC=C1)Cl | C21H18Cl2N2O2
